### PR TITLE
Add comp_inverse_distrib theorem

### PR DESCRIPTION
**Pull request by FWuermse**

### CODE REVIEW

File: Hm/Relation.lean [hunk 1]
```diff
@@ -77,4 +77,18 @@ def comp : Relation α γ := { t | ∃ a, (t.fst, a) ∈ R ∧ (a, t.snd) ∈ S}
...
+  apply setext
+  intro x
+  apply Iff.intro <;>
+  {
+    intro h;
+    cases h with
+    | intro x hR₂ =>
+      cases hR₂ with
+      | intro hR₁ hR₂ =>
+        exists x
```
Comment (hargoniX) [inline Hm/Relation.lean]: This and the next line can be one as described in #2.

File: Hm/Relation.lean [hunk 2]
```diff
@@ -77,4 +77,18 @@ def comp : Relation α γ := { t | ∃ a, (t.fst, a) ∈ R ∧ (a, t.snd) ∈ S}
...
 infixr:60 "∘" => comp
 
+theorem comp_inverse_distrib {R₁ R₂: RelationOn α} : (R₁∘R₂)⁻¹ = R₂⁻¹∘R₁⁻¹ := by
+  apply setext
+  intro x
+  apply Iff.intro <;>
+  {
+    intro h;
+    cases h with
+    | intro x hR₂ =>
```
Comment (hargoniX) [inline Hm/Relation.lean]: Naming off, as described in #2

**Review by hargoniX — CHANGES_REQUESTED** [review]
Much better than #2 already for sure.

**Review by hargoniX — APPROVED** [review]
